US07589127B2
5-Tert-butyl-2-[2-(methylamino)ethyl]phenol
Reaction of the product of Step B in Example 75 with methylamine instead of dimethylamine as described in Step C of Example 75 afforded 2-(4-tert-butyl-2-methoxyphenyl)-N-methylacetamide. Treatment of this later product according to the procedures described in Steps D and E of example 75 affords the title compound.

reactant | methylamine | CN | CH5N
reactant | 2-(4-tert-butyl-2-methoxyphenyl)-N-methylacetamide | C(C)(C)(C)C1=CC(=C(C=C1)CC(=O)NC)OC | C14H21NO2
product | 5-Tert-butyl-2-[2-(methylamino)ethyl]phenol | C(C)(C)(C)C=1C=CC(=C(C1)O)CCNC | C13H21NO
